US05183820
4-[(6-Fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl) methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide
To a stirred solution of phosgene (12.5% v/v in toluene; 4 ml) in dichloromethane (4 ml) was added a solution of 4-[[[2-(7-fluoro-1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide (100 mg) in dichloromethane (4 ml), and the resulting mixture was stirred for 1 h. The solvent was removed in vacuo, and the residue was dissolved in dichloromethane (5 ml). Aluminium chloride (68 mg) was added, and the mixture was heated at reflux for 3 h. The cooled mixture was then poured into 2M sodium hydroxide solution (80 ml) and extracted with dichloromethane (2×50 ml). The combined, dried organic extracts were evaporated in vacuo to leave a solid which was dissolved in dichloromethane:methanol (1:1; 50 ml) and adsorbed onto silica. Purification by FCC eluting with System A (200:8:1) gave a solid (21 mg) which was triturated with ether to give the title compound (14 mg), m.p. 162°-166°.

reactant | phosgene | 4 ml | C(=O)(Cl)Cl | CCl2O
reactant | 4-[[[2-(7-fluoro-1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 100 mg | FC=1C=CC=C2C=C(N(C12)C)CCNCC=1N=CN(C1C)S(=O)(=O)N(C)C | C18H24FN5O2S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane methanol | 50 ml | ClCCl.CO
product | 4-[(6-Fluoro-2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl) methyl]-N,N,5-trimethyl-1H-imidazole-1-sulphonamide | 21 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC=3N=CN(C3C)S(=O)(=O)N(C)C | C19H22FN5O3S
